US09062070B2
mCPBA (85%, 9.9 g, 48.9 mmol) was added to the solution of 2-fluoro-3-methoxy-4-vinylbenzonitrile (3.4 g, 19.2 mmol) in 160 mL of DCM at 0° C. The mixture was stirred at room temperature for 60 hours before being diluted with 300 mL of DCM and cooled to 0° C. The mixture was washed subsequently with saturated NaHCO3 (50 mL), aqueous Na2SO3 (2×50 mL), 5% NaOH (50 mL) and brine. The organic layer was concentrated, and the residue was purified by column chromatography (PE:EtOAc=5:1) to afford 2-fluoro-3-methoxy-4-(oxiran-2-yl)benzonitrile: 1H NMR (400 MHz, CDCl3) δ 7.24 (d, J=7.6 Hz, 1H), 6.98 (d, J=7.6 Hz, 1H), 4.14-4.18 (m, 1H), 4.03 (s, 3H), 3.17-3.19 (m, 1H), 2.63-2.66 (m, 1H); MS m/z 194 (M+1)+.

reactant | mCPBA | 48.9 mmol, 9.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-fluoro-3-methoxy-4-vinylbenzonitrile | 19.2 mmol, 3.4 g | FC1=C(C#N)C=CC(=C1OC)C=C | C10H8FNO
solvent | DCM | 160 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-3-methoxy-4-(oxiran-2-yl)benzonitrile | FC1=C(C#N)C=CC(=C1OC)C1OC1 | C10H8FNO2
